US04138581
When cyclopropanecarbonyl chloride and cyclopropanecarboxylic acid are substituted for the 1-methylcyclopropanecarbonyl chloride and 1-methylcyclopropanecarboxylic acid, respectively, in the procedure described in Example 13A above, the acylation product obtained is 3,4-bis(cyclopropanecarbonyloxy)phenyl tert-butylaminomethyl ketone hydrochloride; and when this product is catalytically hydrogenated using the procedure described in Example 13B above, there is obtained 3,4-bis(cyclopropanecarbonyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol hydrochloride.

reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | cyclopropanecarboxylic acid | C1(CC1)C(=O)O | C4H6O2
reactant | 1-methylcyclopropanecarbonyl chloride | CC1(CC1)C(=O)Cl | C5H7ClO
reactant | 1-methylcyclopropanecarboxylic acid | CC1(CC1)C(=O)O | C5H8O2
reactant | 3,4-bis(cyclopropanecarbonyloxy)phenyl tert-butylaminomethyl ketone hydrochloride | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(=O)C1CC1)OC(=O)C1CC1
product | 3,4-bis(cyclopropanecarbonyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol hydrochloride | Cl.C1(CC1)C(=O)OC=1C=C(C(CNC(C)(C)C)O)C=CC1OC(=O)C1CC1 | InChI=1S/C20H27NO5.ClH/c1-20(2,3)21-11-15(22)14-8-9-16(25-18(23)12-4-5-12)17(10-14)26-19(24)13-6-7-13;/h8-10,12-13,15,21-22H,4-7,11H2,1-3H3;1H
